US05204473
A solution of 36.0 g (116 mmol) of 4-n-butylamino-1-cyclohexyloxy-2,2,6,6-tetramethylpiperidine in 100 ml of xylene is added over 20 minutes to a mixture of 10.9 g (59.2 mmol) of cyanuric chloride, 10.0 g of 50% aqueous sodium hydroxide, 10 ml of water, and 50 ml of xylene. The reaction temperature increases from 25 to 60° C. during the addition and is then maintained at 65°-70° C. for six hours. The phases are separated, and the organic phase is dried over magnesium sulfate and concentrated. The residue is purified by flash chromatography (39:1 heptane:ethyl acetate) on silica gel to afford 27.7 g (65% yield) of 2-chloro-4,6-bis-[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-n-butylamino]-1,3,5-triazine, a white glass, m.p. 75°-82° C.

reactant | 4-n-butylamino-1-cyclohexyloxy-2,2,6,6-tetramethylpiperidine | 116 mmol, 36.0 g | C(CCC)NC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C19H38N2O
reactant | cyanuric chloride | 59.2 mmol, 10.9 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 10.0 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-chloro-4,6-bis-[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-n-butylamino]-1,3,5-triazine | 27.7 g, 65% yield | ClC1=NC(=NC(=N1)N(C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)CCCC)N(C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)CCCC | C41H74ClN7O2
